US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-[[(3-fluorophenyl)thio]methyl]-1,3,4-oxadiazole
A solution of 2-(chloromethyl)-5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole (0.16 g, 0.68 mmol), 3-fluorothiophenol (57 μL, 0.68 mmol) and potassium carbonate (0.10 g, 0.75 mmol) in N,N-dimethylformamide (5 mL) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) and recrystallized from hexane/ethyl acetate to give the title compound (32 mg, yield 14%) as colorless crystals.

reactant | 2-(chloromethyl)-5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole | 0.68 mmol, 0.16 g | ClCC=1OC(=NN1)C=1C=CC2=C(CCO2)C1 | C11H9ClN2O2
reactant | 3-fluorothiophenol | 0.68 mmol, 57 μL | FC=1C=C(C=CC1)S | C6H5FS
reactant | potassium carbonate | 0.75 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-[[(3-fluorophenyl)thio]methyl]-1,3,4-oxadiazole | 32 mg, yield 14% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)CSC2=CC(=CC=C2)F | C17H13FN2O2S
